US09216972B2
To a pale yellow, homogeneous mixture of (Z)—N-hydroxybenzimidoyl chloride (Intermediate I-3B, 5.50 g, 35.4 mmol) and 4,4,4-trifluorobut-2-yn-1-ol (Intermediate I-3A, 5.46 g, 39.6 mmol) in dichloroethane (85 mL) in a 250 mL round bottom flask at 70° C. was added triethylamine (9.85 mL, 70.7 mmol) in 22 mL of dichloroethane over 2.5 h via an addition funnel (the first ˜50% over 2 h and the remaining 50% over 0.5 h). The reaction mixture was stirred at room temperature overnight, diluted with dichloromethane (100 mL), washed with water (100 mL), and the organic layer was collected. The aqueous layer was extracted with dichloromethane (2×50 mL), and the combined organic layers were dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. Analysis indicated that the product mixture was composed of a 86:14 mixture of the desired regioisomer, (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol, and the undesired regioisomer, (3-phenyl-5-(trifluoromethyl)isoxazol-4-yl)methanol. The mixture was purified by silica gel chromatography using a mixture of ethyl acetate and hexane to afford (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol (5.34 g, 21.96 mmol, 62.1% yield) as a pale yellow oil. The compound had an HPLC ret. time=1.91 min. (condition A); LC/MS M+1=244.2; 1H NMR (500 MHz, CDCl3) δ ppm 2.21 (br. s., 1H), 4.97 (s, 2H), 7.47-7.56 (m, 3H), and 7.65 (d, J=6.60 Hz, 2H).

reactant | (Z)—N-hydroxybenzimidoyl chloride | 35.4 mmol, 5.50 g | O\N=C(\C1=CC=CC=C1)/Cl | C7H6ClNO
reactant | 4,4,4-trifluorobut-2-yn-1-ol | 39.6 mmol, 5.46 g | FC(C#CCO)(F)F | C4H3F3O
reactant | triethylamine | 70.7 mmol, 9.85 mL | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 85 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 22 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol | 21.96 mmol, 5.34 g, 62.1% yield | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)CO | C11H8F3NO2
